US07563806B2
1-[2-(4-fluoro-phenyl)-ethyl]-cyclohexylamine
2.5 g (11.3 mmol) 1-fluoro-4-iodo-benzene, 1.5 g (11.9 mmol) 1-ethynyl-cyclohexylamine, 793 mg (1.13 mmol) PdCl2(PPh3)2, 67 mg (0.35 mmol) copper iodide and 50 mL diisopropylamine are stirred for 2 hours at 70° C. Then the base is distilled off and the residue is combined with ethyl acetate. The insoluble constituents are filtered off and the filtrate is evaporated down. The alkyne thus prepared is dissolved in 35 mL THF and 35 mL toluene and hydrogenated with platinum oxide as catalyst at normal pressure. The catalyst is separated off and the filtrate is freed from the solvent. The crude product is dissolved in ethyl acetate and combined with 10% hydrochloric acid in ethyl acetate. The precipitated solid is filtered off and washed with ethyl acetate. Yield: 1.3 g (45%; hydrochloride); mass spectroscopy: [M+H]+=222.

reactant | 1-fluoro-4-iodo-benzene | 11.3 mmol, 2.5 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 1-ethynyl-cyclohexylamine | 11.9 mmol, 1.5 g | C(#C)C1(CCCCC1)N | C8H13N
reactant | diisopropylamine | 50 mL | C(C)(C)NC(C)C | C6H15N
reactant | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | platinum oxide | [Pt]=O
catalyst | PdCl2(PPh3)2 | 1.13 mmol, 793 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.35 mmol, 67 mg | [Cu](I)I
product | 1-[2-(4-fluoro-phenyl)-ethyl]-cyclohexylamine | FC1=CC=C(C=C1)CCC1(CCCCC1)N | C14H20FN
